US06852726B2
N-chlorosuccinimide (3.85 g, 29.35 mmole) was suspended in dichloroethane (40 ml) under a nitrogen atmosphere and cooled to −10° C. using an ice-salt-acetone bath. Dimethylsulfide (3 ml) was slowly added with stirring over a period of about 5 minutes. The mixture was stirred at this temperature for 10 minutes beyond the addition, at which time the ice-salt-acetone bath was replaced by a dry-ice acetone bath and the temperature was lowered to −50° C. To this solution was added 2-methylindole (3.85 g, 29.35 mmole) dissolved in dichloroethane (40 ml) slowly with stirring. The reaction mixture was stirred while allowing the temperature to reach 20° C. over about an hour. Diethyl ether (90 ml) was added with stirring and the precipitate which formed was filtered, washed well with ether, and dried overnight in a vacuum oven at room temperature. The free-flowing powder of (2-methyl-1H-indol-3-yl)-dimethylsulfonium chloride thus obtained was used without further purification in the following step.

reactant | N-chlorosuccinimide | 29.35 mmole, 3.85 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Dimethylsulfide | 3 ml | CSC | C2H6S
reactant | 2-methylindole | 29.35 mmole, 3.85 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | Diethyl ether | 90 ml | C(C)OCC | C4H10O
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
product | (2-methyl-1H-indol-3-yl)-dimethylsulfonium chloride | [Cl-].CC=1NC2=CC=CC=C2C1[S+](C)C | InChI=1S/C11H14NS.ClH/c1-8-11(13(2)3)9-6-4-5-7-10(9)12-8;/h4-7,12H,1-3H3;1H/q+1;/p-1
